US07271197B2
i) N-(3-{[2-(4-{2-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethoxy]methyl}phenyl)acetamide
A mixture of (5R)-3-[2-(4-{2-[(3-aminobenzyl)oxy]ethoxy}phenyl)ethyl]-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one {Example 1 xii)} (100 mg), acetic anhydride (21 μL) and N,N-diisopropylethylamine (67 μL) in DCM (2 mL) was stirred at room temperature under nitrogen for 20 h. The solution was then diluted in DCM, washed with 2M HCl, NaHCO3 and brine, dried (MgSO4) and concentrated in vacuo to give the title compound (136 mg). LCMS RT=3.24 min.

reactant | (5R)-3-[2-(4-{2-[(3-aminobenzyl)oxy]ethoxy}phenyl)ethyl]-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | NC=1C=C(COCCOC2=CC=C(C=C2)CCN2C(O[C@@H](C2)C2=CC3=C(OC(OC3)(C)C)C=C2)=O)C=CC1 | C30H34N2O6
reactant | acetic anhydride | 21 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | N,N-diisopropylethylamine | 67 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(3-{[2-(4-{2-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethoxy]methyl}phenyl)acetamide | 136 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCC2=CC=C(OCCOCC=1C=C(C=CC1)NC(C)=O)C=C2)C | C32H36N2O7
